US07776869B2
To a yellow solution of (S)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine dihydrochloride (13.39 g, 37 mmol) in 123 mL MeOH under nitrogen at 0° C. was added formaldehyde (37% solution) (14 ml, 185 mmol), Acetic acid (11 ml, 185 mmol), and sodium cyanoborohydride (4.6 g, 74 mmol) in portions over 5 min. The cloudy mixture was warmed to ambient temperature. After 10 min, the reaction became quite hot and was cooled with an ice bath. After 1.5 h, the reaction was complete by LCMS. The solvent was removed in vacuo, and the flask cooled to 0° C. Water was added, and the mixture was basified with 1N NaOH, and 6N NaOH. The mixture was extracted with 1×200 mL EtOAc, 1×100 mL EtOAc, and the combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo to give (S)-N,N-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine as an orange oil. MS m/z=318 [M+H]+. Calc'd for C14H18F3N3O2: 317.

reactant | (S)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine dihydrochloride | 37 mmol, 13.39 g | Cl.Cl.[N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C[C@H](CCC1)N
reactant | formaldehyde | 185 mmol, 14 ml | C=O | CH2O
reactant | Acetic acid | 185 mmol, 11 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 74 mmol, 4.6 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 123 mL | CO | CH4O
product | (S)-N,N-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine | CN([C@@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C | C14H18F3N3O2
